US08530663B2
A solution of Pd(OH)2/C (5.2 g, 7.4 mmol, 0.3 eq., 20%) in EtOAc (100 mL) was stirred for 10 minutes at room temperature under nitrogen. 3,6-Dihydro-2H-[4,4′]bipyridinyl-1,3′-dicarboxylic acid 1-t-butyl ester 3′-methyl ester (8.7 g, 27.3 mmol, 1.0 eq.) was added. Hydrogen gas was introduced into the reaction vessel (at 1 atm) and the solution was stirred for 5 hours at room temperature. The solids were filtered and the resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:5) to yield 3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1,3′-dicarboxylic acid 1-t-butyl ester 3′-methyl ester (6.7 g) as a colorless oil.

reactant | 3,6-Dihydro-2H-[4,4′]bipyridinyl-1,3′-dicarboxylic acid 1-t-butyl ester 3′-methyl ester | 27.3 mmol, 8.7 g, 1.0 eq. | COC(=O)C=1C=NC=CC1C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O4
reactant | Hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2/C | 7.4 mmol, 5.2 g, 0.3 eq. | [OH-].[OH-].[Pd+2]
product | 3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1,3′-dicarboxylic acid 1-t-butyl ester 3′-methyl ester | 6.7 g | COC(=O)C=1C=NC=CC1C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
